US07192978B2
Preparation of (3R)-1-phenethylpyrrolidin-3-ol
Prepared as in Intermediate I-15 from (3R)pyrrolidin-3-ol (commercially available) and (2-bromoethyl)benzene. The yield was 0.91 g (83.5%) of the title compound.

reactant | (3R)pyrrolidin-3-ol | N1C[C@@H](CC1)O | C4H9NO
reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
product | (3R)-1-phenethylpyrrolidin-3-ol | yield was 0.91 g, 83.5% | C(CC1=CC=CC=C1)N1C[C@@H](CC1)O | C12H17NO
